US06528525B1
(b) Ethyl 3-(4-hydroxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate
In a similar manner to that described in Reference example 37(b), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate (4.08 g), which is the product of Reference example 40(a), a solution of hydrogen bromide in acetic acid (25%, 40 ml) and potassium carbonate (1.68 g) and the reaction mixture was treated to afford the desired compound (2.98 g) as a colorless oil.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate | 4.08 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)OC(F)(F)F | C25H23F3O5
reactant | hydrogen bromide | Br | BrH
reactant | potassium carbonate | 1.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | Ethyl 3-(4-hydroxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate | 2.98 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)OC(F)(F)F | C18H17F3O5
